US07855211B2
[5-Fluoro-4-(7-fluoro-3-isopropyl-2-methyl-3H-benzoimidazol-5-yl)-pyrimidin-2-yl]-(5-piperazin-1-ylmethyl-pyridin-2-yl)-amine
To a mixture of 4-{6-[5-fluoro-4-(7-fluoro-3-isopropyl-2-methyl-3H-benzoimidazol-5-yl)-pyrimidin-2-ylamino]-pyridin-3-ylmethyl}-piperazine-1-carboxylic acid tert-butyl ester (150 mg) in DCM (10 mL) and methanol (10 mL) add hydrogen chloride 4M in dioxane (194 μL). Stir 10 min and remove the solvent under vacuum. Purify by strong cation exchange cartridge (SCX) eluting with methanol and then methanol-NH3 2M followed by silica gel column chromatography eluting with DCM/methanol-NH3 2M (3%) to afford 120 mg of the title compound. MS (ES+): m/z=479 (M+H)+.

reactant | 4-{6-[5-fluoro-4-(7-fluoro-3-isopropyl-2-methyl-3H-benzoimidazol-5-yl)-pyrimidin-2-ylamino]-pyridin-3-ylmethyl}-piperazine-1-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C=NC(=CC1)NC1=NC=C(C(=N1)C1=CC2=C(N=C(N2C(C)C)C)C(=C1)F)F | C30H36F2N8O2
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 194 μL | O1CCOCC1 | C4H8O2
product | [5-Fluoro-4-(7-fluoro-3-isopropyl-2-methyl-3H-benzoimidazol-5-yl)-pyrimidin-2-yl]-(5-piperazin-1-ylmethyl-pyridin-2-yl)-amine | 120 mg | FC=1C(=NC(=NC1)NC1=NC=C(C=C1)CN1CCNCC1)C1=CC2=C(N=C(N2C(C)C)C)C(=C1)F | C25H28F2N8
